US04006245
A mixture of 16.7 parts of ethyl 8-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate, 14.7 parts of 3-(2-t-butylphenoxy)-1,2 -epoxypropane, 50 parts of dimethyl formamide, and 0.1 parts of benzyltrimethyl ammonium hydroxide was boiled under reflux for 3 hours, evaporated to leave a dark brown oil, and treated with ethyl acetate, which was then washed with 2% sodium hydroxide solution, and water, dried, and evaporated to an oil. The oil was chromatographed on a silica column with chloroform as eluent to give a gummy solid, which was boiled with an aqueous ethanolic solution of sodium bicarbonate. The mixture was acidified to give a solid, which was recrystallised from ethanol after treatment with charcoal to give 4.6 parts of 8-(3-[2-t-butylphenoxy]-2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid as a cream solid, mp. 227°-228° (decomp.).

reactant | ethyl 8-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | OC1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C12H10O5
reactant | 3-(2-t-butylphenoxy)-1,2 -epoxypropane | C(C)(C)(C)C1=C(OCC2CO2)C=CC=C1 | C13H18O2
reactant | benzyltrimethyl ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 8-(3-[2-t-butylphenoxy]-2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C)(C)(C)C1=C(OCC(COC2=CC=CC=3C(C=C(OC32)C(=O)O)=O)O)C=CC=C1 | C23H24O7
